US06472419B1
(2-Chloro-6-methoxyphenyl)acetic acid
325 g of 2-chloro-6-methoxyphenylacetonitrile are reacted with 171 g of potassium hydroxide in 690 ml of ethylene glycol. 331 g of solid are obtained (m.p. 164-165° C.).

reactant | 2-chloro-6-methoxyphenylacetonitrile | 325 g | ClC1=C(C(=CC=C1)OC)CC#N | C9H8ClNO
reactant | potassium hydroxide | 171 g | [OH-].[K+]
reactant | ethylene glycol | 690 ml | C(CO)O | C2H6O2
product | (2-Chloro-6-methoxyphenyl)acetic acid | 331 g | ClC1=C(C(=CC=C1)OC)CC(=O)O | C9H9ClO3
